US09339503B2
2-(4-tert-Butylpiperazin-1-yl)-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A13”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and 1-tert-butylpiperazine (72.5 mg; 0.51 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 1 and worked up; yield: 42 mg (28%), crystals.

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | 1-tert-butylpiperazine | 0.51 mmol, 72.5 mg | C(C)(C)(C)N1CCNCC1 | C8H18N2
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-(4-tert-Butylpiperazin-1-yl)-5,6,7,8-tetrahydro-3H-quinazolin-4-one | C(C)(C)(C)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C16H26N4O
